US07030118B2
H) (±)-{3-[[(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-cyclopropyl-methyl]-(4-methyl-benzoyl)-amino]-propyl}-carbamic acid tert-butyl ester
To a solution of (±)-(3-{[(3-benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]-triazin-2-yl)-cyclopropyl-methyl]-amino}propyl)carbamic acid tert-butyl ester (0.30 g, 0.62 mmol) and Et3N (0.13 mL, 0.93 mmol) in CH2Cl2 (10 mL) at rt was added p-toluoyl chloride (0.10 mL, 0.76 mmol) under N2 and it was stirred at rt for 50 min. The reaction mixture was diluted with EtOAc, washed with saturated NaHCO3 solution, and dried over MgSO4. Concentration and purification of the residue by flash column chromatography (SiO2, EtOAc/hexane 1:4) gave the title compound as an oil (0.244 g, 66%): 1H NMR (CDCl3) δ 7.22 (m, 2H), 7.13 (m, 3H), 7.04 (d, 1H, J=4.4 Hz), 6.48 (d, 1H, J=4.4 Hz), 5.90 (d, 1H, J=15.95 Hz), 5.12 (d, 1H, J=9.9 Hz), 4.83 (d, 1H, J=15.95 Hz), 4.03 (m, 1H), 3.54 (m, 1H), 3.45 (m, 1H), 2.74 (m, 2H), 2.31 (s, 3H), 1.66 (m, 2H), 1.29 (s, 9H), 1.19 (m, 3H), 0.80 (m, 1H), 0.42 (m, 1H), 0.32 (m, 2H); 3C NMR (CDCl3) δ 172.9, 155.7, 154.6, 148.8, 139.8, 136.8, 133.2, 129.2, 128.8, 127.7, 126.8, 126.3, 117.7, 117.2, 110.3, 108.5, 57.9, 44.4, 42.7, 37.9, 30.9, 28.2, 21.4, 13.4, 5.24, 3.80; MS (ESI+) 626.16, 628.14 (M++Na).

reactant | (±)-(3-{[(3-benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]-triazin-2-yl)-cyclopropyl-methyl]-amino}propyl)carbamic acid tert-butyl ester | 0.62 mmol, 0.30 g | C(C)(C)(C)OC(NCCCNC(C1CC1)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2Cl)=O | C25H32ClN5O3
reactant | Et3N | 0.93 mmol, 0.13 mL | CCN(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.76 mmol, 0.10 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-{3-[[(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-cyclopropyl-methyl]-(4-methyl-benzoyl)-amino]-propyl}-carbamic acid tert-butyl ester | 0.244 g, 66% | C(C)(C)(C)OC(NCCCN(C(C1=CC=C(C=C1)C)=O)C(C1CC1)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2Cl)=O | C33H38ClN5O4
